US05244908
(2) Synthesis of 5-[1-(methylsulfonyl)-4-piperidylthio]imidazo[1,2-a]pyridine (free compound of Compound 29)
To a suspension of 5-mercaptoimidazo[1,2-a]pyridine (1.50 g, 10 mmoles) in ethanol (100 ml) was added a solution of 4.1M sodium methylate (2.44 ml, 10 mmoles) in methanol and the mixture was stirred at room temperature for 10 minutes. To the reaction mixture was added 1-methylsulfonyl-4-methylsulfonyloxypiperidine (2.83 g, 11 mmoles) at room temperature and the mixture was heated under reflux for 14 hours. After the solvent was distilled off, the residue was dissolved in chloroform, which was washed in turn with an aqueous 1N sodium hydroxide solution and water and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was purified by column chromatography [eluent: ethyl acetate/ethanol (10:1)] to obtain 1.27 g of the desired product (40.8%, light brown solid).

reactant | 5-mercaptoimidazo[1,2-a]pyridine | 10 mmoles, 1.50 g | SC1=CC=CC=2N1C=CN2 | C7H6N2S
reactant | sodium methylate | 10 mmoles, 4.1M, 2.44 ml | C[O-].[Na+]
reactant | 1-methylsulfonyl-4-methylsulfonyloxypiperidine | 11 mmoles, 2.83 g | CS(=O)(=O)N1CCC(CC1)OS(=O)(=O)C | C7H15NO5S2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 5-[1-(methylsulfonyl)-4-piperidylthio]imidazo[1,2-a]pyridine | 1.27 g, 40.8% | CS(=O)(=O)N1CCC(CC1)SC1=CC=CC=2N1C=CN2 | C13H17N3O2S2
